### PR TITLE
[Merged by Bors] - feat: show that `BitVec` is a commutative ring

### PR DESCRIPTION
**Pull request by alexkeizer**
---

- [x] depends on: #8700 [That PR breaks this one]

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 1]
```diff
@@ -124,4 +124,44 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+  add_comm        := by intro ⟨_⟩ ⟨_⟩; simp [add_comm]
+  left_distrib    := by intro ⟨_⟩ ⟨_⟩ ⟨_⟩; simp [left_distrib]
+  right_distrib   := by intro ⟨_⟩ ⟨_⟩ ⟨_⟩; simp [right_distrib]
+  zero_mul        := by intro ⟨_⟩; simp [zero_eq_ofFin_zero]
+  mul_zero        := by intro ⟨_⟩; simp [zero_eq_ofFin_zero]
+  mul_assoc       := by intro ⟨_⟩ ⟨_⟩ ⟨_⟩; simp [mul_assoc]
+  mul_comm        := by intro ⟨_⟩ ⟨_⟩; simp [mul_comm]
+  one_mul         := by intro ⟨_⟩; simp [one_eq_ofFin_one]
+  mul_one         := by intro ⟨_⟩; simp [one_eq_ofFin_one]
+  add_left_neg    := by intro ⟨_⟩; simp [zero_eq_ofFin_zero]
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:165]: I think it would be better to use `Function.Injective.commRing`.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 2]
```diff
@@ -124,4 +124,44 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+-/
+@[simp] lemma neg_ofFin (x : Fin (2^w)) : -(ofFin x) = ofFin (-x) := by
+  rw [neg_eq_zero_sub]; rfl
+
+@[simp] lemma ofFin_and_ofFin (x y : Fin (2^w)) : ofFin x &&& ofFin y = ofFin (x &&& y) := rfl
+@[simp] lemma ofFin_or_ofFin  (x y : Fin (2^w)) : ofFin x ||| ofFin y = ofFin (x ||| y) := rfl
+@[simp] lemma ofFin_xor_ofFin (x y : Fin (2^w)) : ofFin x ^^^ ofFin y = ofFin (x ^^^ y) := rfl
+@[simp] lemma ofFin_add_ofFin (x y : Fin (2^w)) : ofFin x + ofFin y   = ofFin (x + y)   := rfl
+@[simp] lemma ofFin_sub_ofFin (x y : Fin (2^w)) : ofFin x - ofFin y   = ofFin (x - y)   := rfl
+@[simp] lemma ofFin_mul_ofFin (x y : Fin (2^w)) : ofFin x * ofFin y   = ofFin (x * y)   := rfl
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean:140]: (if the user wanted to work with `Fin` instead, then they could apply `toFin_injective`, and push `toFin` to the inside in the same way).

[the remark this answers is not in the document]
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:140]: My reason for the direction is that `ofFin x &&& ofFin y` unfolds to `(ofFin x).toFin &&& (ofFin y).toFin`, where `(ofFin x).toFin = x`. So, the `Fin` expression is (in my mind) simpler / more fundamental. Turning that aroung seems to me not something we'd want `simp` to do by default.

I'll concede that I often forgot how useful `toFin_injective` can be, but it cannot always be used. For example, for inequalities or in subexpressions. Then again, in my current use-case it can, so I'm more than happy to leave these theorems out if you insist they are not desirable

[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean:140]: I'd prefer that we keep the *reverse* of these theorems; they match things like `MulOpposite.op_add` etc.

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 1 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean:165]: That seems cleaner, yes. However, `Function.Injective.commRing` requires instances of `[SMul ℕ β] [SMul ℤ β] [Pow β ℕ]`, which `CommRing` by itself does not need.
Is this by design, it seems `Function.Injective.commRing` shouldn't need them if it's just defining an instance of `CommRing`?

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean]: > which CommRing by itself does not need.

Actually it does need them, but it generates them automatically if you forget them.
The point here is that probably you don't want the auto-generated ones; the manual implementations in terms of `Fin` will likely have better properties.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 3]
```diff
@@ -27,6 +27,12 @@ theorem toNat_injective {n : Nat} : Function.Injective (@Std.BitVec.toNat n)
 theorem toNat_inj {x y : BitVec w} : x.toNat = y.toNat ↔ x = y :=
   toNat_injective.eq_iff
 
+theorem toFin_injective {n : Nat} : Function.Injective (@Std.BitVec.toFin n)
+  | ⟨_, _⟩, ⟨_, _⟩, rfl => rfl
+
+theorem toFin_inj {x y : BitVec w} : x.toFin = y.toFin ↔ x = y :=
+  toFin_injective.eq_iff
+
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:35]: nit: I'd put these before the `toNat` ones, as they're in some sense more fundamental. You could also then replace the proof of `Function.Injective (@Std.BitVec.toNat n)` with `toFin_injective.comp Fin.val_injective` or similar if you wanted, not that it really matters.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 4]
```diff
@@ -124,4 +130,65 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+-/
+@[simp] lemma neg_ofFin (x : Fin (2^w)) : ofFin (-x) = -(ofFin x) := by
+  rw [neg_eq_zero_sub]; rfl
+
+@[simp] lemma ofFin_and_ofFin (x y : Fin (2^w)) : ofFin (x &&& y) = ofFin x &&& ofFin y := rfl
+@[simp] lemma ofFin_or_ofFin  (x y : Fin (2^w)) : ofFin (x ||| y) = ofFin x ||| ofFin y := rfl
+@[simp] lemma ofFin_xor_ofFin (x y : Fin (2^w)) : ofFin (x ^^^ y) = ofFin x ^^^ ofFin y := rfl
+@[simp] lemma ofFin_add_ofFin (x y : Fin (2^w)) : ofFin (x + y)   = ofFin x + ofFin y   := rfl
+@[simp] lemma ofFin_sub_ofFin (x y : Fin (2^w)) : ofFin (x - y)   = ofFin x - ofFin y   := rfl
+@[simp] lemma ofFin_mul_ofFin (x y : Fin (2^w)) : ofFin (x * y)   = ofFin x * ofFin y   := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:146]: These names aren't quite right:
```suggestion
@[simp] lemma ofFin_neg (x : Fin (2^w)) : ofFin (-x) = -(ofFin x) := by
  rw [neg_eq_zero_sub]; rfl

@[simp] lemma ofFin_and (x y : Fin (2^w)) : ofFin (x &&& y) = ofFin x &&& ofFin y := rfl
@[simp] lemma ofFin_or  (x y : Fin (2^w)) : ofFin (x ||| y) = ofFin x ||| ofFin y := rfl
@[simp] lemma ofFin_xor (x y : Fin (2^w)) : ofFin (x ^^^ y) = ofFin x ^^^ ofFin y := rfl
@[simp] lemma ofFin_add (x y : Fin (2^w)) : ofFin (x + y)   = ofFin x + ofFin y   := rfl
@[simp] lemma ofFin_sub (x y : Fin (2^w)) : ofFin (x - y)   = ofFin x - ofFin y   := rfl
@[simp] lemma ofFin_mul (x y : Fin (2^w)) : ofFin (x * y)   = ofFin x * ofFin y   := rfl
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 5]
```diff
@@ -124,4 +130,65 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+
+/-!
+  ## Distributivity of toFin
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:149]:
```suggestion
## Distributivity of `Std.BitVec.toFin`
```
so that this is linked in the docs.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 6]
```diff
@@ -124,4 +130,65 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+/-!
+## Ring
+-/
+
+lemma zero_eq_ofFin_zero : 0#w = ofFin 0 := rfl
+lemma one_eq_ofFin_one   : 1#w = ofFin 1 := rfl
+
+@[reducible]
+instance : SMul ℕ (BitVec w) where
+  smul x y := x#w * y
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:163]: I'd recommend 
```suggestion
  smul x y :=.ofFin (x • y.toFin)
```
and similarly below.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 7]
```diff
@@ -124,4 +130,65 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+-/
+@[simp] lemma toFin_neg (x : BitVec w) : (-x).toFin = -(x.toFin) := by
+  rw [neg_eq_zero_sub]; rfl
+
+/-!
+## Ring
+-/
+
+lemma zero_eq_ofFin_zero : 0#w = ofFin 0 := rfl
+lemma one_eq_ofFin_one   : 1#w = ofFin 1 := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:159]:
```suggestion
@[simp] lemma ofFin_zero : ofFin 0 = 0 := rfl
@[simp] lemma ofFin_one : ofFin 1 = 1 := rfl
```
though these probably belong in the section above.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 8]
```diff
@@ -124,4 +130,65 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+instance : NatCast (BitVec w) := ⟨BitVec.ofNat w⟩
+instance : IntCast (BitVec w) := ⟨BitVec.ofInt w⟩
+
+-- lemma toFin_nsmul (n : ℕ) (x : BitVec w) :
+--   (n • x).toFin = n
+
+/-! Now we can define an instance of `CommRing (BitVector w)` straightforwardly in terms of the
+    existing instance `CommRing (Fin (2^w))` -/
+instance : CommRing (BitVec w) := by
+  apply Function.Injective.commRing _ toFin_injective <;> (intros; try rfl)
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:187]: rather than `intros; try rfl`, can you use the names of the lemmas that you already created above? It's a nice check that you wrote all the ones that matter.

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 9]
```diff
@@ -124,4 +130,71 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+@[simp] lemma toFin_sub : toFin (x - y)   = toFin x - toFin y   := rfl
+@[simp] lemma toFin_mul : toFin (x * y)   = toFin x * toFin y   := rfl
+
+@[simp] lemma toFin_zero    : @toFin w 0 = 0 := rfl
+@[simp] lemma toFin_one     : @toFin w 1 = 1 := rfl
+
+variable (n : Nat) (z : Int)
+
+@[simp] lemma toFin_nsmul   : toFin (n • x) = n • x.toFin := rfl
+@[simp] lemma toFin_zsmul   : toFin (z • x) = z • x.toFin := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:176]: I guess these two shouldn't be `simp`

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 10]
```diff
@@ -124,4 +130,71 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+  rw [neg_eq_zero_sub]; rfl
+
+@[simp] lemma toFin_and : toFin (x &&& y) = toFin x &&& toFin y := rfl
+@[simp] lemma toFin_or  : toFin (x ||| y) = toFin x ||| toFin y := rfl
+@[simp] lemma toFin_xor : toFin (x ^^^ y) = toFin x ^^^ toFin y := rfl
+@[simp] lemma toFin_add : toFin (x + y)   = toFin x + toFin y   := rfl
+@[simp] lemma toFin_sub : toFin (x - y)   = toFin x - toFin y   := rfl
+@[simp] lemma toFin_mul : toFin (x * y)   = toFin x * toFin y   := rfl
+
+@[simp] lemma toFin_zero    : @toFin w 0 = 0 := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:170]: A nicer way to write this is
```suggestion
@[simp] lemma toFin_zero    : toFin (0 : BitVec n) = 0 := rfl
```

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 11]
```diff
@@ -124,4 +130,71 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+@[simp] lemma toFin_one     : @toFin w 1 = 1 := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:171]: This looks like a bad choice of simp lemma by std, so I'd be inclined to leave a TODO comment (after removing `simp`)

File: Mathlib/Data/Bitvec/Lemmas.lean [hunk 12]
```diff
@@ -124,4 +130,72 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+-- These should be simp, but Std's simp-lemmas do not allow this yet.
+lemma toFin_zero    : toFin (0 : BitVec w) = 0 := rfl
+lemma toFin_one     : toFin (1 : BitVec w) = 1 := rfl
+
+variable (n : Nat) (z : Int)
+
+lemma toFin_nsmul   : toFin (n • x) = n • x.toFin := rfl
+lemma toFin_zsmul   : toFin (z • x) = z • x.toFin := rfl
+@[simp] lemma toFin_pow     : toFin (x ^ n) = x.toFin ^ n := rfl
+@[simp] lemma toFin_natCast : @toFin w n = n              := rfl
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Lemmas.lean:179]: Can you add the `OfNat` lemma too? It will probably need to be after the ring instance

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Lemmas.lean]: I added these myself

**Comment by eric-wieser** [comment]
maintainer merge

I pushed some cleanups, so someone should give this a final look over

File: Mathlib/Data/Bitvec/Lemmas.lean (hunk 12 above)
Comment (alexkeizer) [reply Mathlib/Data/Bitvec/Lemmas.lean]: Thanks!

**Comment by alexkeizer** [comment]
This PR will probably need to wait, I just noticed the std bump in #8700 changes a lot of the BitVector definitions and breaks some of the trivial proofs `rfl` here. Since #8700 seems to be higher priority, I propose we wait until that has been merged, then fix this PR.

File: Mathlib/Data/BitVec/Defs.lean [hunk 13]
```diff
@@ -140,4 +140,12 @@ def toLEList (x : BitVec w) : List Bool :=
 def toBEList (x : BitVec w) : List Bool :=
   List.ofFn x.getMsb'
 
+instance : SMul ℕ (BitVec w) := ⟨fun x y => ofFin <| x • y.toFin⟩
+instance : SMul ℤ (BitVec w) := ⟨fun x y => ofFin <| x • y.toFin⟩
+instance : Pow (BitVec w) ℕ  := ⟨fun x n => ofFin <| x.toFin ^ n⟩
+instance : NatCast (BitVec w) := ⟨BitVec.ofNat w⟩
+
+/-- The obvious instance would be to define `IntCast` in terms of `Std.BitVec.ofInt`.  -/
+instance : IntCast (BitVec w) := ⟨fun x => ofFin x⟩
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Defs.lean:149]: Using `.ofInt` probably is the right thing to do, since ultimately `ofInt` is likely to be more efficient.

Comment (alexkeizer) [reply Mathlib/Data/BitVec/Defs.lean]: Fair point, I've redefined `IntCast` and proven the necessary equivalence with `Fin`s `IntCast` instance

**Comment by alexkeizer** [comment]
#8700 has been merged, and this PR fixed accordingly, so it is once more ready for review!

**Comment by tobiasgrosser** [comment]
I guess this may have fallen from the maintainer queue due to @alexkeizer cancelling the merge. @semorrison, any chance you could have a brief look?

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -105,4 +112,113 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+
+lemma ofFin_nsmul (n : ℕ) (x : Fin (2^w)) : ofFin (n • x) = n • ofFin x := rfl
+lemma ofFin_zsmul (z : ℤ) (x : Fin (2^w)) : ofFin (z • x) = z • ofFin x := rfl
+@[simp] lemma ofFin_pow (n : ℕ) : ofFin (x ^ n) = ofFin x ^ n := rfl
+
+@[simp] lemma ofFin_natCast (n : ℕ) : ofFin (n : Fin (2^w)) = n := by
+  simp only [Nat.cast, NatCast.natCast, OfNat.ofNat, BitVec.ofNat, and_pow_two_is_mod]
+  rfl
+
+@[simp] lemma ofFin_intCast (z : ℤ) : ofFin (z : Fin (2^w)) = z := by
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:154]: Do you have any opinions on leanprover/std4#415? That will almost certainly break this proof, so it probably makes sense for you to review it (and maybe wait for a merge) before merging this.

Comment (alexkeizer) [reply Mathlib/Data/BitVec/Lemmas.lean:154]: It's not immediately obvious to me that your version indeed is faster, but otherwise that PR LGTM.

I would prefer we merge this one sooner rather than later, though, since the various `toFin_` and `ofFin_` lemmas are also useful for further developments. Would it be a problem to just merge this now, and fix the proof in the std bump PR once leanprover/std4#415 gets merged? 
Alternatively, I can replace this proof with a `proof_wanted`, comment out whatever depends on it (i.e., the `CommRing` instance), and factor those out to a new PR, so that atleast those lemmas are available.

Comment (tobiasgrosser) [reply Mathlib/Data/BitVec/Lemmas.lean:154]: https://github.com/leanprover/std4/pull/415 is now merged into master. I rebased this PR on master, such that we now can rework this proof.

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -105,4 +112,168 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+          ← Nat.div_mod_eq_mod_mul_div] using hz
+
+@[simp] lemma toFin_intCast (z : ℤ) : toFin (z : BitVec w) = z := by
+  apply toFin_inj.mpr; simp only [ofFin_intCast]
+
+/-!
+## Ring
+-/
+
+instance : CommRing (BitVec w) :=
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:274]: Perhaps it makes sense to reduce this PR to the `CommSemiring` case to get it merged, and then come back and prove the necessary things for `CommRing` about `ofInt` later?

Comment (alexkeizer) [reply Mathlib/Data/BitVec/Lemmas.lean]: Agreed, I've parked the attempt at a proof I did earlier in the `bitvec-ring2` branch, and reduced this PR as suggested

File: Mathlib/Data/BitVec/Defs.lean [hunk 16]
```diff
@@ -140,4 +140,10 @@ def toLEList (x : BitVec w) : List Bool :=
 def toBEList (x : BitVec w) : List Bool :=
   List.ofFn x.getMsb'
 
+instance : SMul ℕ (BitVec w) := ⟨fun x y => ofFin <| x • y.toFin⟩
+instance : SMul ℤ (BitVec w) := ⟨fun x y => ofFin <| x • y.toFin⟩
+instance : Pow (BitVec w) ℕ  := ⟨fun x n => ofFin <| x.toFin ^ n⟩
+instance : NatCast (BitVec w) := ⟨BitVec.ofNat w⟩
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Defs.lean:146]: I think this instance is already defined by Std? Maybe I'm mistaken

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -105,4 +112,109 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+
+proof_wanted ofFin_intCast (z : ℤ) : ofFin (z : Fin (2^w)) = z
+
+proof_wanted toFin_intCast (z : ℤ) : toFin (z : BitVec w) = z
+
+/-!
+## Ring
+-/
+
+-- TODO: generalize to `CommRing` after  `ofFin_intCast` is proven
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:214]:
```suggestion
-- TODO: generalize to `CommRing` after `ofFin_intCast` is proven
```

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 18]
```diff
@@ -105,4 +112,109 @@ theorem ofFin_toFin {n} (v : BitVec n) : ofFin (toFin v) = v := by
...
+
+end
+
+/-!
+### `IntCast`
+-/
+
+proof_wanted ofFin_intCast (z : ℤ) : ofFin (z : Fin (2^w)) = z
+
+proof_wanted toFin_intCast (z : ℤ) : toFin (z : BitVec w) = z
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:208]: Perhaps worth a comment that either of these follows trivially from the other (though that doesn't help with deciding which one to prove)

File: Mathlib/Data/Nat/Order/Lemmas.lean [hunk 19]
```diff
@@ -254,4 +254,29 @@ theorem div_lt_div_of_lt_of_dvd {a b d : ℕ} (hdb : d ∣ b) (h : a < b) : a /
...
+        cases h
+        · contradiction
+        · assumption
+      rw [
+        Nat.mod_eq_sub_mod (Nat.ge_of_not_lt h),
+        Nat.mod_eq_sub_mod y_ge,
+        Nat.succ_sub y_ge
+      ]
+      apply ih _ (Nat.sub_lt (lt_of_lt_of_le m_pos y_ge) m_pos)
+
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/Order/Lemmas.lean:281]: This lemma looks quite strange to me; I think it would be best left to a later PR

File: Mathlib/Data/BitVec/Lemmas.lean (hunk 18 above)
Comment (tobiasgrosser) [reply Mathlib/Data/BitVec/Lemmas.lean:210]: Done.

File: Mathlib/Data/Nat/Order/Lemmas.lean (hunk 19 above)
Comment (tobiasgrosser) [reply Mathlib/Data/Nat/Order/Lemmas.lean]: Dropped.

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -203,6 +203,8 @@ end
 ### `IntCast`
 -/
 
+-- Either of these follows trivially fromt he other. Which one to
+-- prove is not yet clear.
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:207]:
```suggestion
-- Either of these follows trivially from the other. Which one to
-- prove is not yet clear.
```

File: Mathlib/Data/BitVec/Defs.lean (hunk 16 above)
Comment (tobiasgrosser) [reply Mathlib/Data/BitVec/Defs.lean:146]: These are all the instances that are defined in https://github.com/leanprover/std4/commit/fa17cba0459830906e99f0a81fb0edc106220380:

```bash
grep -R instance Std/Data/BitVec
Std/Data/BitVec/Basic.lean:instance : Inhabited (BitVec n) where default := .zero n
Std/Data/BitVec/Basic.lean:instance : OfNat (BitVec n) i where ofNat := .ofNat n i
Std/Data/BitVec/Basic.lean:instance : Repr (BitVec n) where reprPrec a _ := "0x" ++ (a.toHex : Format) ++ "#" ++ repr n
Std/Data/BitVec/Basic.lean:instance : ToString (BitVec n) where toString a := toString (repr a)
Std/Data/BitVec/Basic.lean:instance : Add (BitVec n) := ⟨BitVec.add⟩
Std/Data/BitVec/Basic.lean:instance : Sub (BitVec n) := ⟨BitVec.sub⟩
Std/Data/BitVec/Basic.lean:instance : Neg (BitVec n) := ⟨.neg⟩
Std/Data/BitVec/Basic.lean:instance : Mul (BitVec n) := ⟨.mul⟩
Std/Data/BitVec/Basic.lean:instance : Div (BitVec n) := ⟨.udiv⟩
Std/Data/BitVec/Basic.lean:instance : Mod (BitVec n) := ⟨.umod⟩
Std/Data/BitVec/Basic.lean:instance : LT (BitVec n) where lt x y := x.toFin < y.toFin
Std/Data/BitVec/Basic.lean:instance : LE (BitVec n) where le x y := x.toFin ≤ y.toFin
Std/Data/BitVec/Basic.lean:instance : AndOp (BitVec w) := ⟨.and⟩
Std/Data/BitVec/Basic.lean:instance : OrOp (BitVec w) := ⟨.or⟩
Std/Data/BitVec/Basic.lean:instance : Xor (BitVec w) := ⟨.xor⟩
Std/Data/BitVec/Basic.lean:instance : Complement (BitVec w) := ⟨.not⟩
Std/Data/BitVec/Basic.lean:instance : HShiftLeft (BitVec w) Nat (BitVec w) := ⟨.shiftLeft⟩
Std/Data/BitVec/Basic.lean:instance : HShiftRight (BitVec w) Nat (BitVec w) := ⟨.ushiftRight⟩
Std/Data/BitVec/Basic.lean:instance {n} : HShiftLeft  (BitVec m) (BitVec n) (BitVec m) := ⟨fun x y => x <<< y.toNat⟩
Std/Data/BitVec/Basic.lean:instance {n} : HShiftRight (BitVec m) (BitVec n) (BitVec m) := ⟨fun x y => x >>> y.toNat⟩
Std/Data/BitVec/Basic.lean:instance : HAppend (BitVec w) (BitVec v) (BitVec (w + v)) := ⟨.append⟩
Std/Data/BitVec/Basic.lean:instance : Subsingleton (BitVec 0) where
```

I do not see NatCast.

Comment (alexkeizer) [reply Mathlib/Data/BitVec/Defs.lean:146]: I've confirmed with `#synth` that the instances at the least don't exist in the files imported at that point, which includes `Std.Data.BitVec`, so I'm pretty sure they don't exist in Std at all

File: Mathlib/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -5,6 +5,7 @@ Authors: Simon Hudon, Harun Khan
 -/
 
 import Mathlib.Data.BitVec.Defs
+import Mathlib.Tactic.Linarith
```
Comment (eric-wieser) [inline Mathlib/Data/BitVec/Lemmas.lean:8]: I don't see any uses of `linarith` in this file.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by alexkeizer** [comment]
Thanks for the quick final review @eric-wieser!

File: Mathlib/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Data/BitVec/Lemmas.lean]: Can you open a new WIP PR from that branch so that it doesn't get forgotten?
